US05310723
A stirred solution of 5.2 grams (0.013 mole) of 3-(3-chloro-6-fluoro-3,4-dihydroquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil and 6.2 grams (0.061 mole) of triethylamine in 200 mL of tetrahydrofuran was concentrated under reduced pressure to a residue. The residue was dissolved in methylene chloride and washed with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 4.5 grams of 3-(6-fluoroquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil, mp 179° C., dec. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(3-chloro-6-fluoro-3,4-dihydroquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil | 0.013 mole, 5.2 grams | ClC1C(NC2=CC(=C(C=C2C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)=O | C15H10ClF4N3O3
reactant | triethylamine | 0.061 mole, 6.2 grams | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(6-fluoroquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil | 4.5 grams | FC=1C=C2C=CC(NC2=CC1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)=O | C15H9F4N3O3
